Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7][H:8],4.62507488518
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.0329301304
[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([C:3]=[O:4])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-0.956978326169
[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-3.5663049865400005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:5],5.149926529630001
[H:1][O:2][C:3](=[O:4])[C:8]([C:5]([H:6])[H:7])([H:9])[H:10]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],1.2841932779
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8][H:9],4.7232370685100005
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[H:9],-2.75630895196
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.7669301358
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.36966019665
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])([H:11])[H:12].[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:9][H:10],1.50560872563
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][H:5],0.146393769401
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.5864145506600005
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10],1.37604696316
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-8.00721815835
[C:1]#[C:2][C:3][O:4][C:5][O:6][H:7]>>[C:1].[C:2]#[C:3][O:4][C:5][O:6][H:7],6.431968340449999
[H:1][C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],2.76440821476
[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.806286131009999
[C:4]#[C:11][H:12].[H:1][C:2](=[C:3]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[H:13]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-4.01697777305
[H:1][C:2][O:3][H:4]>>[C:2][O:3][H:4].[H:1],3.49814037809
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.16403969273
[H:1][C:2]#[C:3][C:4]([H:5])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.23050999994
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8],5.9869786884500025
[C:1]#[C:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1].[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],6.4323311725
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],8.40942690517
[C:3]#[C:4][C:5](=[O:6])[H:7].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4][C:5](=[O:6])[H:7],-2.88553437046
[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-5.33915901796
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]=[C:3]([H:4])[H:5],0.47199508631
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6])[C:8](=[O:7])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]2[O:7][C@:8]12[C:9]([H:10])([H:11])[H:12],0.16525029229
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[C:2]=[O:3],-1.39521625935
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],1.11992733836
